Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ year old F with history of rheumatoid arthritis (on low dose
methotrexate, sulfasalazine and naproxen), asthma, hypertension,
hypothyroidism and osteoporosis who presented to the ED with
complaints of chest pain.

She was seen for an urgent visit at her ___ office on ___. 
At
that visit, she noted chest pain starting at around 8 ___ on 
___.
She had eaten a large meal and 2 hours later, noted onset of
chest pain which occurred with inhalation. This was relieved
somewhat with herbal tea and at the time of her visit on ___ 
she
felt her pain was slightly better. She noted pain worse with
lying flat and with deep breaths, improved when sitting up. She
noted pain was ___ and improved to ___ at the office visit
after 2 x SL nitro and 3 x ASA 81 mg. She described pain as
sharp/stabbing, located substernally and did not radiate. She
noted some dyspnea and inability to take a deep breath. She 
tried
taking her inhaler which did not improve the pain. She does take
omeprazole for prophylaxis without history of GERD. She was 
noted
to have STE in the inferolateral leads and was referred to the 
ED
for further management. 

On arrival to the ED, she was noted to be hemodynamically 
stable.
EKG with sinus rhythm, normal axis, normal intervals, 1-2 mm STE
in leads II, III, aVF and V3-V6. Serial EKG with some 
improvement
in STEs in II, III and aVF. Troponin <0.01 x 2, D-dimer 599.
While in the ED, there was development of new A-fib with RVR to
130s then subsequently converted back to sinus rhythm after
administration of metoprolol. She was given aspirin 324 mg,
metoprolol tartrate 12.5 mg, apixaban 5 mg and started on 
heparin
gtt. POCUS without evidence of pericardial effusion. CTA chest
performed without evidence of PE or aortic abnormality.
Cardiology was consulted who recommended admission to ___ for
management of atrial fibrillation and chest pain concerning for
unstable angina. 

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  
 
On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Hyperlipidemia

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- Hypothyroidism
- Polyarticular Rheumatoid arthritis
- Osteoporosis
- Memory difficulty 
 
Social History:
___
Family History:
She has a strong family history of dementia and
her mother and multiple sisters.  There is no significant family
history of lung disease.  She has 3 adult children, none of whom
have lung disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:  24 HR Data (last updated ___ @ 1420)
    Temp: 97.7 (Tm 97.7), BP: 143/84, HR: 82, RR: 18, O2 sat:
96%, O2 delivery: RA  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP not noted at 90 degrees
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
=======================
VITALS: ___ 0949 Temp: 98.0 PO BP: 120/79 L Sitting HR: 73
RR: 18 O2 sat: 97% O2 delivery: RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. MMM.
NECK: Supple, no JVD
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No edema
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:00PM BLOOD WBC-10.4* RBC-4.03 Hgb-13.1 Hct-40.8 
MCV-101* MCH-32.5* MCHC-32.1 RDW-14.2 RDWSD-51.5* Plt ___
___ 03:00PM BLOOD Neuts-77.3* Lymphs-11.4* Monos-9.2 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-8.03* AbsLymp-1.18* 
AbsMono-0.95* AbsEos-0.14 AbsBaso-0.04
___ 12:15PM BLOOD ___ PTT-33.0 ___
___ 03:42PM BLOOD D-Dimer-599*
___ 03:00PM BLOOD Glucose-96 UreaN-14 Creat-0.7 Na-142 
K-3.9 Cl-107 HCO3-22 AnGap-13
___ 03:00PM BLOOD cTropnT-<0.01
___ 08:23PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD Calcium-9.8 Phos-3.1 Mg-2.2
___ 03:00PM BLOOD TSH-1.0

IMAGING
=======
CTA Chest ___
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Multiple bilateral pulmonary nodules measuring up to 4 mm.  
Please see 
recommendations below. 

TTE ___
EF 68%, no valvular pathology, normal PASP

STRESS ___
IMPRESSION: No anginal type symptoms or ischemic EKG changes. 
Nuclear 
report sent separately. 

NUCLEAR STRESS ___
For pharmacologic stress 0.4 mg of regadenoson (0.08 mg/ml) was 
infused 
intravenously over 20 seconds followed by a saline flush. 
FINDINGS:  Left ventricular cavity size is normal. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. Gated images reveal 
normal wall motion. 
The calculated left ventricular ejection fraction is 78%. 
IMPRESSION: 1. Normal cardiac perfusion study. 2. Normal left 
ventricular 
ejection fraction and cavity size. 

DISCHARGE LABS
==============
___ 08:05AM BLOOD WBC-7.6 RBC-3.97 Hgb-13.0 Hct-40.6 
MCV-102* MCH-32.7* MCHC-32.0 RDW-14.3 RDWSD-53.2* Plt ___
___ 08:05AM BLOOD Glucose-106* UreaN-20 Creat-0.7 Na-143 
K-4.9 Cl-109* HCO3-24 AnGap-10
___ 08:05AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.___ y/o F with history of rheumatoid arthritis (on low dose 
methotrexate, sulfasalazine and naproxen), asthma, hypertension, 
hypothyroidism and osteoporosis who presented with complaints of 
chest pain found to have negative cardiac enzymes and normal 
nuclear stress test. 

#Chest pain
Presents with 2 day history of chest pain with associated EKG 
changes. Workup included negative troponins x 2, negative 
age-adjusted D-dimer. CTA negative for PE. Her chest pain 
resolved shortly after admission. She underwent nuclear stress 
testing on ___ without angina, EKG changes, WMA, normal 
perfusion and EF. 

#Paroxysmal atrial fibrillation
While in the ED, developed atrial fibrillation with RVR without 
known history. She was started on metoprolol and converted to 
sinus rhythm which was maintained through the remainder of her 
hospital course. Underlying trigger for atrial fibrillation 
unknown as TTE without evidence of valvular disease or pulmonary 
hypertension. EF 69%. TSH within normal limits. CHADs2VASC score 
4. After risk/benefit discussion with the patient, she was 
started on apixaban 5 mg BID for anticoagulation. Rate control 
was initiated with metoprolol 12.5 mg Q6H which was consolidated 
to metoprolol succinate 50 mg daily on discharge. 

TRANSITIONAL ISSUES
===================
[] Cardiology follow up arranged for ongoing management of 
atrial fibrillation. 
[] Multiple bilateral pulmonary nodules measuring up to 4 mm. 
For incidentally detected multiple solid pulmonary nodules 
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT follow-up in 12 months is 
recommended in a high-risk patient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 2 puff inhalation Q4H:PRN 
shortness of breath 
2. Alendronate Sodium 70 mg PO WEEKLY 
3. amLODIPine 5 mg PO DAILY 
4. Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID 
5. fluticasone propion-salmeterol 55-14 mcg inhalation Other 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE DAILY 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Methotrexate 12.5 mg PO 1X/WEEK (___) 
9. Naproxen 500 mg PO DAILY 
10. netarsudil 0.02 % ophthalmic (eye) DAILY Right eye 
11. Omeprazole 20 mg PO DAILY:PRN GI upset 
12. Simvastatin 20 mg PO QPM 
13. SulfaSALAzine ___ 1500 mg PO BID 
14. tafluprost (PF) 0.0015 % ophthalmic (eye) DAILY Right eye  
15. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Cyanocobalamin Dose is Unknown  PO DAILY 
18. Multivitamins 1 TAB PO DAILY 
19. Vitamin B Complex 1 CAP PO TID 
20. Dorzolamide 2% Ophth. Soln. 1 DROP LEFT EYE TID 
21. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
22. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Alendronate Sodium 70 mg PO WEEKLY  
4.  amLODIPine 5 mg PO DAILY  
5.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
6.  Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID  
7.  Dorzolamide 2% Ophth. Soln. 1 DROP LEFT EYE TID  
8.  fluticasone propion-salmeterol 55-14 mcg inhalation Other  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE DAILY  
11.  Levothyroxine Sodium 100 mcg PO DAILY  
12.  Methotrexate 12.5 mg PO 1X/WEEK (___)  
13.  Multivitamins 1 TAB PO DAILY  
14.  Naproxen 500 mg PO DAILY  
15.  netarsudil 0.02 % ophthalmic (eye) DAILY Right eye  
16.  Omeprazole 20 mg PO DAILY:PRN GI upset  
17.  ProAir HFA (albuterol sulfate) 2 puff inhalation Q4H:PRN 
shortness of breath  
18.  Simvastatin 20 mg PO QPM  
19.  SulfaSALAzine ___ 1500 mg PO BID  
20.  tafluprost (PF) 0.0015 % ophthalmic (eye) DAILY Right eye   

21.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
22.  Vitamin B Complex 1 CAP PO TID  
23.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Paroxysmal atrial fibrillation
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___!

Why was I here?
- You came to the hospital because you were having chest pain 
and there were some changes on your electrocardiogram (EKG). 

What was done while I was here?
- You had a stress test which was normal and did not show any 
signs of a heart attack or heart disease.
- You were found to develop a new irregular heart rhythm called 
atrial fibrillation. You were started on a blood thinner and a 
heart rate control medication for this.

What should I do when I get home?
- Follow up with your primary care doctor. 
- We would recommend that you see a cardiologist to follow up on 
these issues, but you can discuss with your PCP ___.
- Please take all of your medications as prescribed.

We wish you the ___!

- Your ___ Team 
 
Followup Instructions:
___